US07078428B2
N-[(2-Ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 4.3 g of potassium tert-butoxide, 3.7 g of guanidinium chloride and 1.9 g of ethyl (2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours, followed by addition of 60 cm3 of water. The aqueous phase is extracted with 3 times 50 cm3 of ethyl acetate and is then concentrated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 45° C. The residue is taken up in water, triturated and filtered. The solid is taken up in methanol and the solvent is then evaporated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 45° C. 0.56 g of N-[(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]-guanidine is thus obtained in the form of an off-white solid melting at 223° C. Mass spectrum EI: m/e 260 (M+), m/e 173, m/e 160, m/e 132.

reactant | potassium tert-butoxide | 4.3 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 3.7 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 1.9 g | C(C)N1C(C2=CC=CC=C2C1=O)CC(=O)OCC | C14H17NO3
solvent | water | 60 cm3 | O | H2O
product | N-[(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]-guanidine | 0.56 g | C(C)N1C(C2=CC=CC=C2C1=O)CC(=O)NC(=N)N | C13H16N4O2
